US08252935B2
a) 2-[5-(1-Benzo [1,2,3]thiadiazol-6-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (59.3 mg, 0.133 mmol) in CH3CN (5 ml) was added 5Bromomethyl-benzo 1,2,3 thiadiazole (45.5 mg, 0.20 mmol) and diisopropylethylamine (46 μl, 0.27 mmol). The reaction was microwaved at 130° C. for 10 minutes, then diluted with EtOAc and washed with brine, sat. NaHCO3, and brine, dried and filtered. Purification by silica gel chromatography (Isco) gave the desired product, (70 mg, 89%). Calcd for C33H36F3N3O2S (M+H) 595.72, Found 597.3.

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.133 mmol, 59.3 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 5Bromomethyl-benzo 1,2,3 thiadiazole | 0.20 mmol, 45.5 mg | BrCC=1C=CC2=C(N=NS2)C1 | C7H5BrN2S
reactant | diisopropylethylamine | 0.27 mmol, 46 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[5-(1-Benzo [1,2,3]thiadiazol-6-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester | 70 mg, 89% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC2=C(N=NS2)C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C33H36F3N3O2S
